US04554351
(e) BOC-Val-MeLeu-Ala-Bzl
12.9 ml (12.7 g=106 mMol) pivaloyl chloride and 23 g (212 mMol) N-ethyl-diisopropylamine are added to a solution of 23.2 g (106 mMol) BOC-L-Val-OH in 400 ml chloroform and the mixture stirred for 2 hrs. at room temperature under a nitrogen atmosphere. 27.37 g (89 mMol) H-MeLeu-Ala-Bzl dissolved in 100 ml chloroform are then added and the reaction mixture stirred for a further 18 hrs. at 60° C. again under a nitrogen atmosphere. The obtained solution is washed with 300 ml 1N HCl, the aqueous phase extracted with 200 ml methylene chloride and the combined organic phases washed 2× with 200 ml saturated potassium carbonate solution. The aqueous phases are extracted with 200 ml methylene chloride, the combined organic phases dried over potassium carbonate, filtered and concentrated. The residue is chromatographed on 2 kg silica gel 60 (0.065-0.2 mm) with 1% methanol in methylene chloride as eluant to yield the title compound as a colourless oil: rotation [α]D25 =-97.2 (c=1.0 in chloroform).

reactant | pivaloyl chloride | 106 mMol, 12.9 ml, 12.7 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N-ethyl-diisopropylamine | 212 mMol, 23 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | BOC-L-Val-OH | 106 mMol, 23.2 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | H-MeLeu-Ala-Bzl | 89 mMol, 27.37 g | N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CC1=CC=CC=C1)C | C17H26N2O2
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | BOC-Val-MeLeu-Ala-Bzl | N([C@@H](C(C)C)C(=O)N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C27H43N3O5
